### PR TITLE
Fix core hint database issue #6521

### LINKED ISSUE #6521: Core hint database priority issue
#### Version

8.8+alpha (7e319ad03aba413f3165b848eaf821b364f9291b)

#### Operating system

macOS Sierra 10.12.6

#### Description of the problem

The issue was described in [this Coq Club post](https://sympa.inria.fr/sympa/arc/coq-club/2017-12/msg00103.html), here is the relevant piece of code:

```
Goal forall (m : nat), exists n, m = n /\ m = n.
intros m; eexists; split.
- trivial.
- (* The goal at this point is m = m + 0, but it's expected it to be m = m *)
Abort.
```

### PR DESCRIPTION
**Pull request by anton-trunov**
**Kind:** bug fix

Fixes / closes #6521

### CODE REVIEW

File: test-suite/success/Hints.v [hunk 1]
```diff
@@ -172,3 +172,14 @@ Hint Cut [_* (a_is_b | b_is_c | c_is_d | d_is_e)
...
+
+(* Check that auto-like tactics do not prefer "eq_refl" over more complex solutions, *)
+(* e.g. those tactics when considering a goal with existential varibles *)
+(* like "m = ?n" won't pick "plus_n_O" hint over "eq_refl" hint. *)
+(* See this Coq club post for more detail: *)
+(* https://sympa.inria.fr/sympa/arc/coq-club/2017-12/msg00103.html *)
+
+Goal forall (m : nat), exists n, m = n /\ m = n.
+  intros m; eexists; split; [trivial | reflexivity].
+Qed.
```
Comment (SkySkimmer) [inline test-suite/success/Hints.v]: Missing newline at end of file.

File: theories/Init/Peano.v [hunk 2]
```diff
@@ -90,7 +90,9 @@ Lemma plus_n_O : forall n:nat, n = n + 0.
 Proof.
   induction n; simpl; auto.
 Qed.
-Hint Resolve plus_n_O: core.
+
+Remove Hints eq_refl : core.
+Hint Resolve plus_n_O eq_refl: core.  (* We want eq_refl to have higher priority than plus_n_O *)
```
Comment (SkySkimmer) [inline theories/Init/Peano.v]: That's a highly specific solution. Could we instead use hint priorities or some other mechanism to solve this in a more generic way?

Comment (anton-trunov) [reply theories/Init/Peano.v]: Yes, I understand this is a hackish workaround. It seems to me we cannot use priorities here. For instance the following breaks many proofs in stdlib:
```
Hint Resolve plus_n_O | 1 : core.
```
because `trivial` won't be able to use `plus_n_O`.

I have also tried to be explicit and not rely on this convention that a hint added last is tried first:

```
Hint Extern 0 (?X = ?X + 0) =>
  match goal with
  | |- _ = ?RHS => tryif is_evar RHS then simple apply eq_refl else simple apply plus_n_O
  end : core.
```
but this approach does not currently work because of an issue with `Hint Extern` -- for some reason Coq treats
```
Hint Resolve plus_n_O | 0 (?X = ?X + 0) : core.                (* this works *)
```
and
```
Hint Extern 0 (?X = ?X + 0) => simple apply plus_n_O : core.   (* this does not *)
```
differently (it's a simplified example).

I'd be happy to hear some suggestions on how to approach this. E.g. would you consider the `Hint Extern` solution to be acceptable?

Comment (robbertkrebbers) [reply theories/Init/Peano.v]: IMHO: A `Hint Extern` solution is not preferred, as you cannot remove a `Hint Extern` because it is unnamed.

I ran into this issue multiple times as well, that there is no way to prioritize the hints for `trivial`: For `trivial` hints with priority 0 are used, but there is no way of ordering these.

Seems like we need rational numbers for hint priorities :).

Comment (anton-trunov) [reply theories/Init/Peano.v]: @robbertkrebbers Thanks! Good point about `Hint Extern`. IMHO, it deserves its own separate issue.

As for `trivial`, then the current implementation seem to respect the order in which one puts the hints into the database (LIFO), that's why the `Hint Resolve plus_n_O eq_refl: core.` sort of works (I've tested it only on the standard library and standard tests).

By the way, there is no such issue with integers, because an analogous lemma is in `zarith` db and it seems that `core` db has priority over `zarith`.

**Comment by Zimmi48** [comment]
This issue shows indeed that Coq doesn't give enough control on the way hints are used, in particular for trivial where the only way to order hints is with the order of declaration. This deserves a specific feature request. In the meantime, the ad-hoc solution proposed in this PR doesn't look so bad (add it passes the tests, apart for the missing newline at end of file which is breaking the linter).

**Comment by mattam82** [comment]
We should have an issue about naming externs too
Le mer. 3 janv. 2018 à 00:36, Théo Zimmermann <notifications@github.com> a
écrit :

**Comment by anton-trunov** [comment]
I opened the naming issue #6542

**Comment by maximedenes** [comment]
So, are we ok with introducing this small hack until a more satisfactory machinery is implemented? @letouzey ?

**Comment by maximedenes** [comment]
@letouzey ping

**Comment by maximedenes** [comment]
@letouzey ping again

**Review by mattam82 — APPROVED** [review]
Personnaly I'm fine with this. Not the cutest fix but fine.

**Review by letouzey — APPROVED** [review]
No objection

**Comment by anton-trunov** [comment]
Thank you for letting the fix in!

**Comment by maximedenes** [comment]
@anton-trunov Thanks for contributing!
